US03950434
10 c.c. of the catalyst thus prepared was fed into a 50 c.c. microbomb, together with 10 g of benzene, 5 g of acetic acid and 0.2 g of concentrated sulfuric acid, and the bomb was sealed. Oxygen was introduced therein through an upper valve till its pressure reached 40 kg/cm2. The bomb was then placed in an oil bath of shaking type whose temperature had been controlled to 100°C. After the reaction was carried out for 20 hours, the catalyst was separated and removed. The reaction mixture containing unreacted benzene and acetic acid was cooled and filtered. The resultant filtrate was evaporated to give 2.1 g of biphenyl

reactant | benzene | 10 g | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | 0.2 g | S(O)(O)(=O)=O | H2O4S
reactant | Oxygen | O=O | O2
solvent | acetic acid | 5 g | C(C)(=O)O | C2H4O2
product | biphenyl | 2.1 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
